US07534797B2
4-(3-Chloro-phenylamino)-1,1,1-trifluoro-4-phenyl-but-3-en-2one
Into a 1-Neck round-bottom flask was added 1,1,1-trifluoro-4-phenyl-but-3-yn-2-one (2.0 g, 0.01 mole), methanol (5 mL) and m-chloroaniline (0.961 mL, 0.0091 mol). The reaction was stirred. TLC (SiO2, hexanes/methylene chloride 1:1) indicated near reaction completion after 1 h. After 1.5 h the product was concentrated in vacuo to afford an orange oil, which was placed on high vacuum overnight, affording a yellow gum. The crude product was chromatographed on Silica gel with hexanes, Methylene Chloride 2:1, and place on high vacuum for 2 h to afford the title compound as a yellow gum; 1H NMR (CDCl3, 400 MHz) δ 5.74 (s, 1H), 6.67-6.69 (m, 1H), 6.85 (nm, 1H), 7.08-7.10 (m, 1H), 7.31-7.39 (m, 4H), 7.43-7.47 (tt, 1H), 12.39 (bs, 1H)

reactant | 1,1,1-trifluoro-4-phenyl-but-3-yn-2-one | 0.01 mole, 2.0 g | FC(C(C#CC1=CC=CC=C1)=O)(F)F | C10H5F3O
reactant | m-chloroaniline | 0.0091 mol, 0.961 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | methanol | 5 mL | CO | CH4O
product | 4-(3-Chloro-phenylamino)-1,1,1-trifluoro-4-phenyl-but-3-en-2one | ClC=1C=C(C=CC1)NC(=CC(C(F)(F)F)=O)C1=CC=CC=C1 | C16H11ClF3NO
